US08293911B2
Step C: N-(2-chloro-4-(3,4-dihydroisoquinolin-2(1H)-yl)-6-(trifluoromethyl)phenyl)-3-cyclopentyl propanamide
Bis(dibenzylidineacetone)palladium (2 mg, 0.0035 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (3.3 mg, 0.0084 mmol) were added to dry toluene (10 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (150 mg, 1.34 mmol), 1,2,3,4-tetrahydroisoquinoline (107 mg, 0.8 mmol), and N-(4-bromo-2-chloro-6-trifluoromethyl phenyl)-3-cyclopentyl propionamide (200 mg, 0.5 mmol) were then added, and the reaction mixture was stirred at 90° C. overnight. The reaction mixture was then cooled to room temperature, concentrated, and purified by thin layer chromatography (dichloromethane: methanol 5%) to afford the title compound as a solid.

reactant | Potassium tert-butoxide | 1.34 mmol, 150 mg | CC(C)([O-])C.[K+]
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.8 mmol, 107 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | N-(4-bromo-2-chloro-6-trifluoromethyl phenyl)-3-cyclopentyl propionamide | 0.5 mmol, 200 mg | BrC1=CC(=C(C(=C1)C(F)(F)F)NC(CCC1CCCC1)=O)Cl | C15H16BrClF3NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-chloro-4-(3,4-dihydroisoquinolin-2(1H)-yl)-6-(trifluoromethyl)phenyl)-3-cyclopentyl propanamide | Yield: 28% | ClC1=C(C(=CC(=C1)N1CC2=CC=CC=C2CC1)C(F)(F)F)NC(CCC1CCCC1)=O | C24H26ClF3N2O
